US08486970B2
To a solution of 1.4 g of ethyl(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxylate in 20 ml of DMF was added 229 mg of sodium hydride under ice-cooling, followed by stirring at the same temperature for 10 minutes, and then 0.17 ml of methyl iodide was added thereto, followed by stirring under ice-cooling for 30 minutes. Water was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform-methanol) to obtain 545 mg of ethyl (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[methyl(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxylate as a colorless amorphous substance.

reactant | ethyl(3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxylate | 1.4 g | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)OCC)=O)C1C(CCCC1)NS(=O)(=O)C | C25H28Cl2N2O5S
reactant | sodium hydride | 229 mg | [H-].[Na+]
reactant | methyl iodide | 0.17 ml | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | ethyl (3RS,4RS)-3-(2,4-dichlorophenyl)-2-{(1SR,2SR)-2-[methyl(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxylate | 545 mg | ClC1=C(C=CC(=C1)Cl)C1N(C(C2=CC=CC=C2C1C(=O)OCC)=O)C1C(CCCC1)N(S(=O)(=O)C)C | C26H30Cl2N2O5S
